US08426437B2
This compound is prepared according to synthesis 25, from 200 mg (0.6 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 2), 100 mg (0.8 mmol) of 3-aminoquinuclidine (in free form) and 170 μL (1.22 mmol) of triethylamine. After purification by chromatography on silica (eluent chloroform/methanol/ammonia 85/13/2), 11 mg (4%) of 8-(1-azabicyclo[2.2.2]oct-3-ylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate is obtained in the form of a brown solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.6 mmol, 200 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | 3-aminoquinuclidine | 0.8 mmol, 100 mg | NC1CN2CCC1CC2 | C7H14N2
reactant | triethylamine | 1.22 mmol, 170 μL | C(C)N(CC)CC | C6H15N
product | 8-(1-azabicyclo[2.2.2]oct-3-ylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 11 mg, 4% | N12CC(C(CC1)CC2)NS(=O)(=O)C2=CC=1C3=C(C(NC1C=C2)=O)NC=C3.C(C)C(=O)[O-] | InChI=1S/C18H20N4O3S.C3H6O2/c23-18-17-13(3-6-19-17)14-9-12(1-2-15(14)20-18)26(24,25)21-16-10-22-7-4-11(16)5-8-22;1-2-3(4)5/h1-3,6,9,11,16,19,21H,4-5,7-8,10H2,(H,20,23);2H2,1H3,(H,4,5)/p-1
